US07626029B2
Ethyl 4-[(3R)-3-(1-tert-butoxycarbonylaminocyclopropyl)-pyrrolidin-1-yl]-2-fluoro-3-methoxybenzoate
(3R)-3-(1-Tert-butoxycarbonylaminocyclopropyl)-pyrrolidine (4.75 g, 85% content) was dissolved in dimethylsulfoxide (30 mL). After adding thereto ethyl 2,4-difluoro-3-methoxybenzoate (3.2 g) and triethylamine (3.1 mL), the mixture was stirred at 75° C. After 18 hours, the mixture was allowed to cool, incorporated with 10% aqueous citric acid solution, and extracted with AcOEt. An organic layer was dried with anhydrous sodium sulfate and filtered, and then the solvent was distilled away. The resulting residual crystals (6.22 g) (2-position:4-position=17:83) were subjected to chromatography on silica gel (hexane:ethyl acetate=4:1) to give the title compound as white crystals (4.75 g).

reactant | (3R)-3-(1-Tert-butoxycarbonylaminocyclopropyl)-pyrrolidine | 4.75 g | C(C)(C)(C)OC(=O)NC1(CC1)[C@H]1CNCC1 | C12H22N2O2
reactant | ethyl 2,4-difluoro-3-methoxybenzoate | 3.2 g | FC1=C(C(=O)OCC)C=CC(=C1OC)F | C10H10F2O3
reactant | triethylamine | 3.1 mL | C(C)N(CC)CC | C6H15N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethylsulfoxide | 30 mL | CS(=O)C | C2H6OS
product | Ethyl 4-[(3R)-3-(1-tert-butoxycarbonylaminocyclopropyl)-pyrrolidin-1-yl]-2-fluoro-3-methoxybenzoate | 4.75 g | C(C)(C)(C)OC(=O)NC1(CC1)[C@H]1CN(CC1)C1=C(C(=C(C(=O)OCC)C=C1)F)OC | C22H31FN2O5
